US05534644
77.8 g (0.5 moles) of 3,5-dichloro-2-pentanone [prepared according to Acta Chim. Hung. 3, 157 (1953)] are added to the solution of 49.9 g (0.513 moles) of potassium rhodanide in 500 ml of acetone. The solution is boiled under stirring for 4 hours. The reaction mixture is cooled to room temperature and the precipitated potassium chloride is filtered off and washed with acetone. The filtrate is evaporated, the residue is dissolved in benzene and the benzene solution is washed 3 times with water. After drying with sodium sulphate, the benzene is distilled off. 62.2 g (93%) of 3-thiocyanato-5-chloro-2-pentanone are obtained in the form of a red oil. After distilling at a lower pressure a faint yellow oil is obtained, its boiling point is 112° C. at a pressure of 26.6 Pa, nD20 =1.5110. According to infrared spectrum it does not contain any isothiocyanate.

reactant | 3,5-dichloro-2-pentanone | 0.5 moles, 77.8 g | ClC(C(C)=O)CCCl | C5H8Cl2O
reactant | potassium rhodanide | 0.513 moles, 49.9 g | C(#N)[S-].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3-thiocyanato-5-chloro-2-pentanone | 62.2 g, 93% | S(C#N)C(C(C)=O)CCCl | C6H8ClNOS
